US08114902B2
4-(4-bromophenyl)-2-ethoxycarbonyl-2-methylbutyric acid
To a solution of diethyl 2-[2-(4-bromophenyl)ethyl]-2-methylmalonate (55.0 g) of Reference Example 24 in ethanol (300 mL) was added potassium hydroxide (85%, 12.2 g), and the mixture was stirred at 60° C. for 5 hr. The solvent was evaporated under reduced pressure, water was added, and the aqueous layer was washed with ether. The aqueous layer was acidified with hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give the title compound (50.8 g) as a colorless oil.

reactant | diethyl 2-[2-(4-bromophenyl)ethyl]-2-methylmalonate | 55.0 g | BrC1=CC=C(C=C1)CCC(C(=O)OCC)(C(=O)OCC)C | C16H21BrO4
reactant | potassium hydroxide | 12.2 g | [OH-].[K+]
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | 4-(4-bromophenyl)-2-ethoxycarbonyl-2-methylbutyric acid | 50.8 g | BrC1=CC=C(C=C1)CCC(C(=O)O)(C)C(=O)OCC | C14H17BrO4
